US07342037B2
To a solution of HCl in methanol (2 M) was added ethyl 2-((N-(butyloxycarbonyl)-N-(p-methoxybenzyl)sulfamoyl)amino)acetate from the previous step (2.0 g, 5.0 mmol) in portions at RT and the mixture was stirred for 3 h. After the solvent was removed in vacuo, the residue was washed with diethyl ether to afford ethyl 2-((N-(p-methoxybenzyl)sulfamoyl)amino)acetate (1.0 g, 70%). 1H-NMR (DMSO-d6): δ 7.43 (t, J=6.0 Hz, 1H), 7.287 (t, J=6.4 Hz, 1H), 7.21 (d, J=8.4 Hz, 2H), 6.86 (d, J=8.4 Hz, 2H), 3.94 (d, J=4.8 Hz, 2H), 3.71 (s, 3H), 3.64 (d, J=6.0 Hz, 2H), 3.62 (s, 3H),

reactant | HCl | Cl | ClH
reactant | ethyl 2-((N-(butyloxycarbonyl)-N-(p-methoxybenzyl)sulfamoyl)amino)acetate | C(CCC)OC(=O)N(S(=O)(=O)NCC(=O)OCC)CC1=CC=C(C=C1)OC | C17H26N2O7S
solvent | methanol | 2 M | CO | CH4O
product | ethyl 2-((N-(p-methoxybenzyl)sulfamoyl)amino)acetate | 1.0 g, 70% | COC1=CC=C(CNS(=O)(=O)NCC(=O)OCC)C=C1 | C12H18N2O5S
